* CMOS inverter transient analysis, matched design 0.5um
.include "D:\AUC\Uni\Fall 25\Microelectronics\Project\Saif and adham\CMOS 0.18\MOSFET_models_0p5_0p18-3.inc"
* supply sources
VDD no1 0 3.3V
VG no2 0 pulse(0v 3.3v 0 1p 1p 5n 10n)
* MOSFETs
Mpmos no3 no2 no1 no1 PMOS0P5 l=0.5u w=5u ad=7.5p as=7.5p pd=13u ps=13u
Mnmos no3 no2 0 0 NMOS0P5 l=0.5u w=1.25u ad=1.875p as=1.875p pd=5.5u ps=5.5u
* Resistor and Capacitor
Rr1 no3 no4 1k
Cc1 no4 0 0.5p
* Transient analysis
.tran 1p 10n
.measure tran TpHL trig V(no2) val=1.65 rise=1 targ V(no4) val=1.65 fall=1
.measure tran TpLH trig V(no2) val=1.65 fall=1 targ V(no4) val=1.65 rise=1
.measure Tp param= '(TpHL+TpLH)/2'
.END
